US05064862
B. Preparation of 4-amino-N-(2,6-dimethylphenyl) benzamide
A solution of 5.0 g of 4-nitro-N-(2,6-dimethylphenyl) benzamide in 250 ml of ethanol was added to a Paar hydrogenation bottle along with 250 mg of 5% palladium on carbon. The mixture was subjected to low pressure hydrogenation (45 psi) for three hours. The mixture was filtered through celite and the filtrate was evaporated in vacuo. The resulting residue was purified by (crystallization from benzene-petroleum ether) [column chromatography over silica gel using a step-wise solvent gradient of petroleum ether and diethyl ether] to provide 2.2 g of the desired title product, m.p. 212°-215° C.

reactant | 4-nitro-N-(2,6-dimethylphenyl) benzamide | 5.0 g | [N+](=O)([O-])C1=CC=C(C(=O)NC2=C(C=CC=C2C)C)C=C1 | C15H14N2O3
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 4-amino-N-(2,6-dimethylphenyl) benzamide | 2.2 g | NC1=CC=C(C(=O)NC2=C(C=CC=C2C)C)C=C1 | C15H16N2O
